US06872731B2
3-[3-(7-Methylimidazo[1,2-α]pyridin-3-yl)phenyl]thiophene-2-carbonitrile
A mixture of 7-methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]imidazo[1,2-α]pyridine (350 mg, 1.0 mmol) and 3-bromo-2-cyanothiophene (200 mg, 1.0 mmol) in 1,2-dimethoxyethane (10 ml) and caesium carbonate (5 ml of a 2M solution) was degassed for 15 minutes. Tetrakis(triphenylphosphine)palladium(0) (125 mg, 0.1 mmol) was then added and the mixture heated at reflux for 20 hours, poured into water (50 ml) and extracted with ethyl acetate (2×25 ml). The combined organic phases were dried over anhydrous magnesium sulphate, filtered and concentrated in vacuo. Purification by flash chromatography eluting with 3% methanol in dichloromethane gave the title compound as a colourless oil (180 mg, 57%). Oxalate salt, white powder, m.p. 193-195° C. (Found C, 62.07; H, 3.66; N, 10.19. C19H13N3S.C2H2O4 requires C, 62.21; H, 3.73; N, 10.36). 1H NMR (360 MHz, d6-DMSO) δH 2.42 (3H, s), 6.91-6.93 (1H, m), 7.53 (1H, s), 7.68-7.82 (6H, m), 7.89 (1H, s), 8.01 (1H, s), 8.18 (1H, d, J 5), 8.63 (1H, d, J 7); m/z (ES+) 316 (M++H).

reactant | 7-methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]imidazo[1,2-α]pyridine | 1.0 mmol, 350 mg | CC1=CC=2N(C=C1)C(=CN2)C2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C | C20H23BN2O2
reactant | 3-bromo-2-cyanothiophene | 1.0 mmol, 200 mg | BrC1=C(SC=C1)C#N | C5H2BrNS
reactant | water | 50 ml | O | H2O
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | caesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 125 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[3-(7-Methylimidazo[1,2-α]pyridin-3-yl)phenyl]thiophene-2-carbonitrile | 180 mg, 57% | CC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C2=C(SC=C2)C#N | C19H13N3S
